US08476286B2
Synthesis of 4-(4-isopropyl-phenyl)-6,7-dimethoxy-2-phenoxy-quinazoline
216 mg (2.30 mmol) phenol and 11 mg (0.44 mmol) are dissolved in 2 ml t-butanol and the resulting solution is stirred for 3 h at rt. After that time 80 mg (0.23 mmol) 2-chloro-4-(4-isopropyl-phenyl)-6,7-dimethoxy-quinazoline is added and the solution is stirred at 85° C. overnight. The reaction mixture is diluted with ether and extracted with brine. The organic layer is dried and evaporated. After chromatography (hexane/ethyl acetate the product is obtained as yellow solid.

reactant | phenol | 2.30 mmol, 216 mg | C1(=CC=CC=C1)O | C6H6O
reactant | 2-chloro-4-(4-isopropyl-phenyl)-6,7-dimethoxy-quinazoline | 0.23 mmol, 80 mg | ClC1=NC2=CC(=C(C=C2C(=N1)C1=CC=C(C=C1)C(C)C)OC)OC | C19H19ClN2O2
solvent | t-butanol | 2 ml | C(C)(C)(C)O | C4H10O
solvent | ether | CCOCC | C4H10O
product | 4-(4-isopropyl-phenyl)-6,7-dimethoxy-2-phenoxy-quinazoline | C(C)(C)C1=CC=C(C=C1)C1=NC(=NC2=CC(=C(C=C12)OC)OC)OC1=CC=CC=C1 | C25H24N2O3
